### PR TITLE
arch-split CSpace_R

### PR DESCRIPTION
**Pull request by Xaphiosis**
🦆🦆🦆 This PR includes experiments to reduce review time, please read

In real life, I did the usual addition of CSpace_R, hierarchy update, arch-split and then update. However, since the arch-split part first splits AARCH64, then takes the AARCH64 version of ArchCSpace_R and only fixes what broke, we ended up with a small diff there.

Please review commit-by commit with the following notes:
- `[squash] refine: copyrights for ArchCSpace_R` : 2023 vs 2025
- `[wip] refine: copy AARCH64 contents of ArchCSpace_R to CSpace_R` - this is Corey's idea, to stop CSpace_R looking as a wall of green newly-added text for the AARCH64 arch-split commit
- `aarch64 refine: arch-split CSpace_R` - this is the main bulk of the arch-split, dealing with AARCH64
- `[squash] clobber *ALL* ArchCSpace_R with AARCH64 version` - wipes the other arches' ArchCSpace_R with a verbatim copy of the AARCH64 one; mostly pointless to review
- `[squash] refine: arch-split CSpace_R (other arches)` - result of fixing up the ArchCSpace_R of other architectures - shows diff to AARCH64, small for this PR
- `refine: update for CSpace_R arch-split` - not many updates this time, and no crefine needed

Looking for feedback on how to make this smoother too.

Stats: 47 files changed, 8595 insertions(+), 28211 deletions(-)
Total: 19616 lines removed

### CODE REVIEW

File: proof/refine/CSpace_R.thy [hunk 1]
```diff
@@ -4365,170 +3963,45 @@ lemma arch_update_descendants':
...
+  done
+
+context CSpace_R_2 begin
 
 lemma capMaster_same_refs:
   "capMasterCap a = capMasterCap b \<Longrightarrow> cte_refs' a = cte_refs' b \<and> zobj_refs' a = zobj_refs' b"
   apply (rule conjI)
    apply (rule master_eqI, rule cte_refs_Master, simp)
-  apply (rule master_eqI, rule zobj_refs_Master, simp)
+  apply (rule master_eqI, rule zobj_refs_Master, simp) (* FIXME arch-split: interface *)
```
Comment (lsf37) [inline proof/refine/CSpace_R.thy]: (in `capMaster_same_refs`) Can you explain the FIXME? From the proof script, things look benign, so I'm guessing there is something happening in the state.

File: proof/refine/CSpace_R.thy [hunk 2]
```diff
@@ -4552,126 +4025,42 @@ lemma arch_update_setCTE_ifunsafe:
...
+                        cte_wp_at_ctes_of gen_isCap_simps untyped_ranges_zero_fun_upd)
   apply (frule capMaster_eq_capBits_eq)
   apply (frule capMaster_isUntyped)
   apply (frule capMaster_capRange)
   apply (clarsimp simp: valid_refs'_def valid_cap_sizes'_def)
   apply (subst untyped_ranges_zero_delta[where xs="[p]"], assumption, simp_all)
    apply (clarsimp simp: ran_restrict_map_insert cteCaps_of_def
                          untypedZeroRange_def Let_def
-                         isCap_simps(1-11)[where v="ArchObjectCap ac" for ac])
+                         gen_isCap_simps[where v="ArchObjectCap ac" for ac])
```
Comment (lsf37) [inline proof/refine/CSpace_R.thy]: 👍

File: proof/refine/CSpace_R.thy [hunk 3]
```diff
@@ -5430,6 +4676,47 @@ lemma dlist' [simp]:
...
+
+end (* mdb_insert_simple' *)
+
+
+(* this version is for a CSpace_R-style locale:
+  assumes ut_capRange_non_empty:
+    "\<And>m src src_cap src_node dest dest_cap dest_node c'.
+     \<lbrakk>mdb_insert_simple' m src src_cap src_node dest dest_cap dest_node c'; isUntypedCap src_cap\<rbrakk>
+     \<Longrightarrow> capRange c' \<noteq> {}"
+*)
```
Comment (lsf37) [inline proof/refine/CSpace_R.thy]: Is the commented-out version still needed?

File: proof/refine/CSpace_R.thy [hunk 4]
```diff
@@ -56,6 +60,81 @@ lemmas untyped_inc' = untyped_inc'
 
 end
 
+(* FIXME arch-split: move requalification and same_master_descendants to CSpace_R
+   when arch-splitting it, these can be generic *)
```
Comment (corlewis) [inline proof/refine/CSpace_R.thy]: Good job thinking to move these. I think this FIXME can be removed now.

File: proof/refine/CSpace_R.thy [hunk 5]
```diff
@@ -2103,9 +2043,10 @@ lemma valid_dlist_nextD:
                mdbPrev (cteMDBNode cte') = p)"
   by (clarsimp simp:valid_dlist_def Let_def)
 
+
 lemma no_loops_no_l2_loop:
```
Comment (corlewis) [inline proof/refine/CSpace_R.thy]: Intentional newline?

File: proof/refine/CSpace_R.thy [hunk 6]
```diff
@@ -2906,18 +2850,18 @@ lemma setCTE_valid_globals[wp]:
    apply wp+
   done
 
-lemma updateMDB_global_refs [wp]:
- "\<lbrace>valid_global_refs'\<rbrace> updateMDB p m \<lbrace>\<lambda>rv. valid_global_refs'\<rbrace>"
+lemma updateMDB_global_refs[wp]:
+ "updateMDB p m \<lbrace>valid_global_refs'\<rbrace>"
```
Comment (corlewis) [inline proof/refine/CSpace_R.thy]: If you're up to changing this again
```suggestion
  "updateMDB p m \<lbrace>valid_global_refs'\<rbrace>"
```

File: proof/refine/ARM/ArchCSpace_R.thy [hunk 7]
```diff
@@ -1,6 +1,6 @@
 (*
+ * Copyright 2014, General Dynamics C4 Systems
  * Copyright 2023, Proofcraft Pty Ltd
- * Copyright 2020, Data61, CSIRO (ABN 41 687 119 230)
```
Comment (lsf37) [inline proof/refine/ARM/ArchCSpace_R.thy]: That looks wrong. The existing copyrights should not change. (Probably from the AArch64 copy procedure)

File: proof/refine/CSpace_R.thy (hunk 6 above)
Comment (corlewis) [reply proof/refine/CSpace_R.thy]: And the same in the following lemma.

File: proof/refine/CSpace_R.thy [hunk 8]
```diff
@@ -3279,13 +3179,21 @@ lemma usableUntypedRange_uniq:
   apply blast
   done
 
+(* FIXME arch-split: move? doesn't seem like the ARCH version actually unfolds arch on AARCH64, maybe others, check *)
+lemmas gen_valid_cap_simps' =
+  valid_cap'_def[split_simps capability.split]
```
Comment (corlewis) [inline proof/refine/CSpace_R.thy:3180]: Was this something you wanted to check now that you've done CSpace_R for all architectures, or later when you've made more progress through Refine?

File: proof/refine/ARM/ArchCSpace_R.thy (hunk 7 above)
Comment (lsf37) [reply proof/refine/ARM/ArchCSpace_R.thy]: Oh, it is probably correct. The clobber made it wrong and this fixes it back. Can you confirm?

File: proof/refine/X64/ArchCSpace1_R.thy [hunk 9]
```diff
@@ -1140,6 +1152,25 @@ lemma valid_badges_preserve_oneway[CSpace1_R_2_assms]:
   apply (clarsimp simp: valid_arch_badges_def)
   done
 
+(* corresponds to safe_parent_for_arch in AInvs, used by safe_parent_for' *)
+definition
+  "safe_parent_for_arch' m cap parent \<equiv>
+     isArchIOPortCap cap \<and> isIOPortControlCap' parent \<and> (\<forall>p n'. m p \<noteq> Some (CTE cap n'))"
```
Comment (lsf37) [inline proof/refine/X64/ArchCSpace1_R.thy:1158]: That is really working out quite nicely. Cool.

File: proof/refine/RISCV64/ArchCSpace_R.thy [hunk 10]
```diff
@@ -274,6 +250,20 @@ end (* Arch_mdb_insert *)
 
 context Arch_mdb_insert_sib begin
 
+(* FIXME arch-split: move: AARCH64 has this in ArchCSpace1_R *)
+lemma not_untyped:
```
Comment (lsf37) [inline proof/refine/RISCV64/ArchCSpace_R.thy]: Now that this chunk is finished, is it worth moving them before we merge? (I think all the non-AARCH64 theories have this)

File: proof/refine/CSpace_R.thy [hunk 11]
```diff
@@ -4034,15 +3625,136 @@ proof -
...
+   rest generic. These are duplicated in CSpace_R_2 so we can pretend we have mdb_insert_simple
+   there. *)
+locale mdb_insert_simple_gen = mdb_insert_simple +
+  assumes dest_no_parent_n: "n \<turnstile> dest \<rightarrow> p = False"
+  assumes new_child[simp]: "isMDBParentOf new_src new_dest"
+
+(* These assumptions needed to make proofs generic in mdb_insert_simple'_gen later in this theory,
+   but since there is overlap with CSpace_R_2, we consolidate them here. This also lets us overload
+   CSpace_R_2_assms to discharge the assumptions of mdb_insert_simple'_gen once they are proved in
+   Arch. *)
```
Comment (corlewis) [inline proof/refine/CSpace_R.thy:3654]: Thank you for these very helpful comments.

File: proof/refine/CSpace_R.thy [hunk 12]
```diff
@@ -4135,98 +3817,40 @@ lemma setupReplyMaster_wps[wp]:
...
-   apply (simp_all add: valid_pspace'_def)
+lemma setupReplyMaster_iflive'[wp]:
+  "\<lbrace>if_live_then_nonz_cap'\<rbrace> setupReplyMaster t \<lbrace>\<lambda>rv. if_live_then_nonz_cap'\<rbrace>"
+  apply (simp add: setupReplyMaster_def locateSlot_conv)
+  apply (wp setCTE_iflive' getCTE_wp')
+  apply (clarsimp elim!: cte_wp_at_weakenE')
   done
 
+
 lemma setupReplyMaster_ifunsafe'[wp]:
```
Comment (corlewis) [inline proof/refine/CSpace_R.thy]: Intended newline?

File: proof/refine/ARM/ArchCSpace_R.thy [hunk 13]
```diff
@@ -662,7 +690,7 @@ lemma ex_nonz_cap_not_global':
   apply clarsimp
   apply (drule orthD1, erule (1) subsetD)
   apply (subgoal_tac "s \<turnstile>' cteCap cte")
-   apply_trace (clarsimp simp: valid_cap'_def capRange_def capAligned_def
+   apply (fastforce simp: valid_cap'_def capRange_def capAligned_def
```
Comment (corlewis) [inline proof/refine/ARM/ArchCSpace_R.thy]: Out of curiosity, where did this `apply_trace` come from? It doesn't seem to be in AARCH64's version but appears as part of the clobber?

File: proof/refine/CSpace_R.thy (hunk 1 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: nope, only a stale comment after I removed the `AARCH64.`. thanks for catching it!

File: proof/refine/CSpace_R.thy (hunk 3 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: seems to not be, thanks

File: proof/refine/CSpace_R.thy (hunk 4 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: yup, cheers

File: proof/refine/CSpace_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: removed. by the way, should I be putting in a double-newline before the `CSpace_R*` locale declarations? it didn't seem to help any in CSpace_R

File: proof/refine/ARM/ArchCSpace_R.thy (hunk 7 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchCSpace_R.thy]: It does get a bit confusing with the fictional commit, because the diff is showing AARCH64 to ARM diff. The final result is:
```
 * Copyright 2014, General Dynamics C4 Systems
 * Copyright 2023, Proofcraft Pty Ltd
 ```
 i.e. added Proofcraft copyright line to existing one

File: proof/refine/CSpace_R.thy (hunk 8 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy:3180]: I think I will involve it in the next round. What I discovered is that the arch-specific version  seems to have an issue where the arch part isn't unfolded, so really both are the generic version.

File: proof/refine/X64/ArchCSpace1_R.thy (hunk 9 above)
Comment (Xaphiosis) [reply proof/refine/X64/ArchCSpace1_R.thy:1158]: Inspired by what happened in AInvs, but had to have different definitions, had to add the `m` parameter, and couldn't add a sane type signature because I didn't know what the bits were.

File: proof/refine/CSpace_R.thy (hunk 12 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: nope, thanks

File: proof/refine/ARM/ArchCSpace_R.thy (hunk 13 above)
Comment (Xaphiosis) [reply proof/refine/ARM/ArchCSpace_R.thy]: Artifact of the commit-split procedure: I noticed that I had added it on AARCH64 when debugging and left it in, so I fixed that and squashed it in. On ARM, it got copied over but then fixed later.

**Comment by Xaphiosis** [comment]
> The copy/clobber/update setup has worked pretty nicely for reviewing for me, it really drives it home how much we are able to remove from the arch side and what the differences are between the architectures. I think that works well.

Cool. It was Corey's idea that started it off, and then it inspired the expanded inter-arch version.
 
> For the final squashed commits, I think what you have indicated with `[squash]` should work, i.e. one for Arch prefix, one for the split, and one for updating the rest of Refine.

To confirm, same as I did in the previous PRs?

File: proof/refine/CSpace_R.thy (hunk 6 above)
Comment (Xaphiosis) [reply proof/refine/CSpace_R.thy]: done

**Comment by Xaphiosis** [comment]
PR comments should be addressed. I'll leave the unfortunate `valid_cap_simps'` to the next round.

File: proof/refine/CSpace_R.thy (hunk 5 above)
Comment (corlewis) [reply proof/refine/CSpace_R.thy]: I think you're right that it's not particularly needed. In my mind the locales aren't really their own sections and are instead just necessary parts of the wider proofs.

File: proof/refine/ARM/ArchCSpace_R.thy (hunk 7 above)
Comment (lsf37) [reply proof/refine/ARM/ArchCSpace_R.thy]: Cool, that is correct.

File: proof/refine/X64/ArchCSpace1_R.thy (hunk 9 above)
Comment (lsf37) [reply proof/refine/X64/ArchCSpace1_R.thy:1158]: That's ok for now, we can a type signature later if we want it. I'm happy that we managed to split this one at all.

**Comment by Xaphiosis** [comment]
Squashed to 3 commits (hierarchy, arch-split, update). Will merge once tests pass.
